US20010027196A1
A stirred solution of 260 mg (0.80 mmol) trifluoromethanesulfonic acid 2-amino-5-fluoro-6-furan-2-yl-pyrimidin-4-yl ester and 560 mg (7.99 mmol) sodium methanethiolate in 10 ml dry DME under argon was heated at 50° C. for 2 hours. The reaction mixture was then concentrated in vacuo. Flash chromatography (ethyl acetate/hexane 1/2) followed by trituration in ether/hexane afforded 65 mg (36%) 5-fluoro-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine as a white crystalline solid. EI-MS m/e (%): 225 (M+, 100), 180 (28).

reactant | trifluoromethanesulfonic acid 2-amino-5-fluoro-6-furan-2-yl-pyrimidin-4-yl ester | 0.80 mmol, 260 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)F)C=1OC=CC1 | C9H5F4N3O4S
reactant | sodium methanethiolate | 7.99 mmol, 560 mg | C[S-].[Na+]
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 5-fluoro-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 65 mg, 36% | FC=1C(=NC(=NC1SC)N)C=1OC=CC1 | C9H8FN3OS
